US08802864B2
To a suspension of N-(4-bromo-2-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide (925 mg, 2.185 mmol) in water (45 mL) was added K2CO3 (1510 mg, 10.93 mmol). The reaction flask was equipped with a reflux condenser and heated to reflux (bath=130° C.) with stirring. After 5 h (LCMS indicated no starting material remained), the reaction mixture was cooled to room temperature and filtered to collect a small amount of white precipitate (this was determined to contain very little product so it was discarded). The aqueous filtrate was adjusted to pH˜5.5 with 1N aq HCl and extracted with three 100 mL portions of ethyl acetate. The combined organics were dried over Na2SO4, filtered, concentrated under reduced pressure and dried to constant weight under high vacuum to provide 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (485 mg, 1.197 mmol, 54.8% yield) as a white solid. MS(ES)+ m/e 405.2, 407.4 [M+H]+. The product was determined to be 90% pure by LCMS (UV214) and was carried on in the next step without further purification.

reactant | N-(4-bromo-2-methylphenyl)-2-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]acetyl}hydrazinecarboxamide | 2.185 mmol, 925 mg | BrC1=CC(=C(C=C1)NC(=O)NNC(C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H23BrN4O3
reactant | K2CO3 | 10.93 mmol, 1510 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 45 mL | O | H2O
product | 4-(4-bromo-2-methylphenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 1.197 mmol, 485 mg, 54.8% yield | BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O)C | C18H21BrN4O2
